US08440700B2
4-(3,3,3-Trifluoro-2-hydroxypropoxy)benzaldehyde
The title compound is prepared analogously to Example 12A from 4-hydroxybenzaldehyde and 3-bromo-1,1,1-trifluoropropan-2-ol.

reactant | 4-hydroxybenzaldehyde | OC1=CC=C(C=O)C=C1 | C7H6O2
reactant | 3-bromo-1,1,1-trifluoropropan-2-ol | BrCC(C(F)(F)F)O | C3H4BrF3O
product | 4-(3,3,3-Trifluoro-2-hydroxypropoxy)benzaldehyde | Yield: 84% | FC(C(COC1=CC=C(C=O)C=C1)O)(F)F | C10H9F3O3
